US04876343
A mixture of 2.8 g (17.8 mmol) of (4S-cis)-4-hydroxy-5-(2-methylpropyl)-2-pyrrolidinone, 20 ml of tetrahydrofuran and 20 ml of dichloromethane is treated with 1.8 ml (19.7 mmol) of 3,4-dihydro-2H-pyran and 150 mg (0.79 mmol) of para-toluenesulfonic acid hydrate. The resulting solution is stirred at room temperature overnight and then partitioned between ethyl acetate and a 5% aqueous solution of sodium bicarbonate. The organic layer is separated, dried over magnesium sulfate, evaporated, and the residue filtered through a 175 ml bed of silica gel. Elution with hexane-ethyl acetate (1:1 then 1:2 and finally 0:1) affords 5-(2-methylpropyl)-4-[(tetrahydro-2H-pyran-2-yl)oxy]-2-pyrrolidinone, (pyranyl center R, S; other centers S) after evaporation from diethyl ether; mp 67°-69° C.

reactant | (4S-cis)-4-hydroxy-5-(2-methylpropyl)-2-pyrrolidinone | 17.8 mmol, 2.8 g | O[C@H]1CC(N[C@H]1CC(C)C)=O | C8H15NO2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 3,4-dihydro-2H-pyran | 19.7 mmol, 1.8 ml | O1CCCC=C1 | C5H8O
reactant | para-toluenesulfonic acid hydrate | 0.79 mmol, 150 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(2-methylpropyl)-4-[(tetrahydro-2H-pyran-2-yl)oxy]-2-pyrrolidinone | CC(CC1C(CC(N1)=O)OC1OCCCC1)C | C13H23NO3
